US07157577B2
(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid was reacted with 1-(2-aminoethyl)pyrrolidine using General Amidation Procedure 1 to give 2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-N-(2-pyrrolidin-1-yl-ethyl)-acetamide. MS m/z 278 [M+1].

reactant | (5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-acetic acid | C(=O)C1=C(C(=C(N1)C)CC(=O)O)C | C9H11NO3
reactant | 1-(2-aminoethyl)pyrrolidine | NCCN1CCCC1 | C6H14N2
product | 2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-N-(2-pyrrolidin-1-yl-ethyl)-acetamide | C(=O)C1=C(C(=C(N1)C)CC(=O)NCCN1CCCC1)C | C15H23N3O2
